US06008229
A solution of 8-[2,6-dichloro-3-(1,3-dioxolan-2-yl)benzyloxy]-2-methylquinoline (3.0 g) in 80% acetic acid (30 ml) was heated at 60° C. for 2 hours. The cooled reaction mixture was concentrated in vacuo, and aqueous sodium bicarbonate solution was added thereto. The mixture was extracted with chloroform, and the organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethyl acetate to give 8-(2,6-dichloro-3-formylbenzyloxy)-2-methylquinoline (2.28 g) as colorless crystals.

reactant | 8-[2,6-dichloro-3-(1,3-dioxolan-2-yl)benzyloxy]-2-methylquinoline | 3.0 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C1OCCO1)Cl | C20H17Cl2NO3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 8-(2,6-dichloro-3-formylbenzyloxy)-2-methylquinoline | 2.28 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1C=O)Cl | C18H13Cl2NO2
